US06235771B1
To a solution of 4-bromo-2-methylphenol (14.2 g) in DMF (75 ml) was added potassium carbonate (14.7 g), and to the mixture was added dropwise bromopropane (9.33 g). The mixture was stirred at 70° C. for 3 hours and cooled, and to the mixture was added water. The mixture was extracted with hexane, and the organic layer was washed with 1N sodium hydroxide solution and saturated brine, and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give colorless oil of 4-bromo-2-methyl-propoxybenzene (10.6 g).

reactant | 4-bromo-2-methylphenol | 14.2 g | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | potassium carbonate | 14.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromopropane | 9.33 g | BrCCC | C3H7Br
reactant | water | O | H2O
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 4-bromo-2-methyl-propoxybenzene | 10.6 g | BrC1=CC=C(C=C1)OCC(C)C | C10H13BrO
